US08106064B2
Acetic acid 2-methyl-pyridin-4-ylmethyl ester (5.1 g, 31 mmol) was stirred with ammonium hydroxide (10 ml) in methanol (25 ml) at room temperature. After 24 hr., the mixture was evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, EA) to afford 3.56 g (94%) of (2-methyl-pyridin-4-yl)-methanol as a pale yellow solid. m.p. 58-59° C. 1H NMR (200 MHz, CDCl3) δ 2.45 (3H, s), 4.66 (2H, s), 7.06 (1H, d, J=5.2 Hz), 7.14 (1H, s), 8.25 (1H, d, J=5.2 Hz).

reactant | Acetic acid 2-methyl-pyridin-4-ylmethyl ester | 31 mmol, 5.1 g | CC1=NC=CC(=C1)COC(C)=O | C9H11NO2
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
solvent | methanol | 25 ml | CO | CH4O
product | (2-methyl-pyridin-4-yl)-methanol | 3.56 g, 94% | CC1=NC=CC(=C1)CO | C7H9NO
